US08648202B2
A solution of 1.16 g (3.0 mmol) of tris(pentafluoroethyl)phosphine, (C2F5)3PH, in 1,2-dimethoxyethane is treated with an excess (6 mmol) of a 1.5 M solution of NaOH in water. The mixture is stirred at room temperature for 30 min, and the solvent is subsequently removed in vacuo, giving a colourless residue, sodium bis(pentafluoroethyl)phosphinite, (C2F5)2PONa.

reactant | tris(pentafluoroethyl)phosphine | 3.0 mmol, 1.16 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)C(C(F)(F)F)(F)F | C6F15P
reactant | NaOH | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | (C2F5)2PONa | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)O[Na] | InChI=1S/C4F10OP.Na/c5-1(6,7)3(11,12)16(15)4(13,14)2(8,9)10;/q-1;+1
